US08013008B2
(2S,3S)-3-ethyl-2-isopropylpyrrolidin-3-ol 0.5 oxalate
By an operation in the same manner as in Reference Example 4 and using benzyl (2S,3S)-3-ethyl-3-hydroxy-2-isopropylpyrrolidine-1-carboxylate (2.2 g) and 50% water containing-10% Pd/C (0.11 g), the title compound was obtained as a colorless solid (yield: 1.33 g, yield: 83%).

reactant | benzyl (2S,3S)-3-ethyl-3-hydroxy-2-isopropylpyrrolidine-1-carboxylate | 2.2 g | C(C)[C@]1([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)C(C)C)O | C17H25NO3
catalyst | Pd/C | 0.11 g | [Pd] | Pd
solvent | water | O | H2O
product | (2S,3S)-3-ethyl-2-isopropylpyrrolidin-3-ol | C(C)[C@]1([C@@H](NCC1)C(C)C)O | C9H19NO
